US06288120B1
Step A: 2-[2-(3,5-Dichloro-phenoxy)ethyl]-isoindole-1,3-dione.
A solution of 1-(2-bromo-ethoxy)-3,5-dichloro-benzene (2.41 g, 8.93 mmol) and potassium phthalimide (2.00 g, 10.64 mmol) in DMF (7.6 mL) was heated at 85° C. for 1 h. The reaction was cooled to room temperature and chloroform was added. The organic solution was washed with 0.2 N aqueous NaOH followed by water. The organic solution was dried (Na2SO4), filtered, and concentrated. The residue was suspended in Et2O and the solid was collected by filtration to provide the title compound (2.21 9). 1HNMR (400 MHz, CDCl3) δ 7.82 (m, 2H), 7.77 (m, 2H), 6.89 (m, 1H), 6.88 (m, 2H), 4.16 (t, 2H), 4.05 (t, 2H); MS 336 (M+).

reactant | 1-(2-bromo-ethoxy)-3,5-dichloro-benzene | 8.93 mmol, 2.41 g | BrCCOC1=CC(=CC(=C1)Cl)Cl | C8H7BrCl2O
reactant | potassium phthalimide | 10.64 mmol, 2.00 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 7.6 mL | CN(C)C=O | C3H7NO
product | 2-[2-(3,5-Dichloro-phenoxy)ethyl]-isoindole-1,3-dione | ClC=1C=C(OCCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C16H11Cl2NO3
